### PR TITLE
add Lean protobuf library

### PR DESCRIPTION
**Pull request by cdisselkoen**
First step towards merging the code in #400.  I thought it would make it easier to split #400 into some smaller chunks.  This self-contained PR has only the general-purpose Lean protobuf-parsing library, which generally implements protobuf parsing.  Not included in this PR is any functionality specific to Cedar, e.g., parsing Cedar structures from protobuf formats.

All of this code is credit to @Brandon-Rozek.  I simply rebased on latest main, updated for latest Lean, renamed a couple things, small tweaks like that.

### CODE REVIEW

File: cedar-lean/Protobuf/Proofs.lean [hunk 1]
```diff
@@ -0,0 +1,360 @@
...
+
+namespace Proto
+
+instance : DecidableEq (BParsec.ParseResult (Char × Nat)) := by apply inferInstance
+
+theorem utf8DecodeChar.sizeGt0 (it1 it2 : ByteArray.ByteIterator) (pos : Nat) (c : Char) (H : utf8DecodeChar pos it1 = .success it2 ⟨c, n⟩) : n > 0 := by
+  unfold utf8DecodeChar at H
+  simp only [beq_iff_eq, bne_iff_ne, ne_eq, gt_iff_lt, ite_not, Bool.and_eq_true, not_and,
+    and_imp] at H
+  split at H
```
Comment (andrewmwells-amazon) [inline cedar-lean/Protobuf/Proofs.lean:310]: Maybe clean this up before merging?

**Review by andrewmwells-amazon — APPROVED** [review]

File: cedar-lean/Protobuf/Proofs.lean (hunk 1 above)
Comment (cdisselkoen) [reply cedar-lean/Protobuf/Proofs.lean:196]: Good call, done

File: cedar-lean/Protobuf/HardCodeTest.lean [hunk 2]
```diff
@@ -0,0 +1,90 @@
+/-
```
Comment (emina) [inline cedar-lean/Protobuf/HardCodeTest.lean:1]: Can we remove this file or maybe move it to UnitTest?

Comment (cdisselkoen) [reply cedar-lean/Protobuf/HardCodeTest.lean]: Removed.  Will re-add in the future if needed for other parts of #400.  Possibly in UnitTest instead of here.

**Review by emina — APPROVED** [review]
